US08383636B2
To a solution of benzyl((4RS,5RS)-4-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-5-yl)methylcarbamate (0.884 g, 2.86 mmol) in dry dichloromethane (30 mL) was added diisopropylethylamine (1.417 ml, 8.57 mmol) and then methanesulfonyl chloride (0.288 ml, 3.71 mmol) and the solution was stirred at RT. After 30 mins the reaction mixture was washed with water, dil HCl and then sat aq NaHCO3. Normal processing afforded a syrup, which was dissolved in DMF (15 mL) and then sodium thiomethoxide (0.601 g, 8.57 mmol) was added with stirring. After 1 h, toluene was added and the mixture was washed with water (×2) and processed normally. Chromatography (EtOAc/Hex 1:2) gave benzyl((4RS,5RS)-2,2-dimethyl-4-(methylthiomethyl)-1,3-dioxan-5-yl)methylcarbamate (0.839 g, 2.472 mmol, 86% yield) as a syrup. 13C NMR (CDCl3) δ 156.9, 136.8, 128.9, 128.6, 128.5, 99.2, 72.3, 67.3, 62.4, 40.4, 39.9, 38.4, 29.0, 20.3, 17.3.

reactant | benzyl((4RS,5RS)-4-(hydroxymethyl)-2,2-dimethyl-1,3-dioxan-5-yl)methylcarbamate | 2.86 mmol, 0.884 g | C(C1=CC=CC=C1)OC(NCC1C(OC(OC1)(C)C)CO)=O | C16H23NO5
reactant | diisopropylethylamine | 8.57 mmol, 1.417 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.71 mmol, 0.288 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium thiomethoxide | 8.57 mmol, 0.601 g | C[S-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzyl((4RS,5RS)-2,2-dimethyl-4-(methylthiomethyl)-1,3-dioxan-5-yl)methylcarbamate | 2.472 mmol, 0.839 g, 86% yield | C(C1=CC=CC=C1)OC(NCC1C(OC(OC1)(C)C)CSC)=O | C17H25NO4S
